* Example netlist
V1 in 0 PULSE(0 5 1m 1n 1n 10m)
R1 in N001 {R}
L1 N001 N002 {L}
C1 N002 0 {C}
.PARAM C=1e-6
.PARAM L=1e-3
.PARAM R=1
.tran 0 10m 0
.backanno
.end
